### PR TITLE
Add optimizable bulk operations to Actions, native and external SetReaders

### PR DESCRIPTION
**Pull request by robin-aws**
### What was changed?
Adds bulk operations to the Actions library - `Producer.ForEach` (renamed from `ForEachRemaining`), `Producer.Fill`, and `BulkAction.Map` - which can use type tests to optimize for common producers and consumers. This is particularly useful when using these traits to handle binary data, especially in streaming workflows, since it allows simple modelling of operations in terms of individual byte values, but does not force actually processing individual bytes at a time (which can introduce a lot of overhead, especially in languages like Java where the type system forces boxing values into `Byte` wrappers).

Also:
* Added a twostate predicate `ValidChange()` to `Validatable` and several related helper predicates/lemmas/etc, since the specification of the bulk actions heavily relied on twostate invariants of actions such as `old(history) <= history`.
* Added `ActionsExterns.MakeSetReader<T>(s: set<T>)`, which creates a `Producer<T>` that reads the contents of a set in nondeterministic order in linear time. This is currently only implemented for Java and C#.
* Modified the standard libraries example build process to also support target-specific examples (so the above can be exampled/tested for only Java and C#)
* Made the `--hidden-no-verify` option recorded in doo files even though it is still normally unchecked, but added Makefile tests to ensure this is never used in checked-in doo files.

### How has this been tested?
Added lots of additional examples. Note that the bulk operations are not really tested super well, especially in the use case of interacting with external producers and consumers, but a pending change to https://github.com/smithy-lang/smithy-dafny will have substantially more coverage by using these traits to support streaming for services such as S3.

<small>By submitting this pull request, I confirm that my contribution is made under the terms of the [MIT license](https://github.com/dafny-lang/dafny/blob/master/LICENSE.txt).</small>

### CODE REVIEW

File: Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy [hunk 1]
```diff
@@ -13,7 +16,7 @@ module ActionsExamples {
     while true
       invariant p.Valid()
       invariant fresh(p.Repr)
-      decreases p.Remaining()
+      decreases p.Decreasing()
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy:19]: Sounds like a good rename

File: Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy [hunk 2]
```diff
@@ -185,17 +206,13 @@ module ActionsExamples {
   }
 
   @AssumeCrossModuleTermination
-  class SplitProducer extends ProducerOfNewProducers<nat> {
+  class Splitter extends OutputterOfNewProducers<nat, nat> {
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy:209]: I'm ok removing Producer from the class name, but why using a synonym `Outputter` ?
`ProducersProducer` could also be a simple straightforward one.

File: Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy [hunk 3]
```diff
@@ -208,75 +225,334 @@ module ActionsExamples {
...
       reads this, Repr
       decreases Repr, 3
     {
-      TMNat(|inputs|)
+      0
     }
 
-    method Invoke(t: ()) returns (result: Option<Producer<nat>>)
-      requires Requires(t)
+    method Invoke(x: nat) returns (result: Producer<nat>)
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy:280]: So this producer never terminates and at most returns an empty producer, then?

File: Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy [hunk 4]
```diff
@@ -208,75 +225,334 @@ module ActionsExamples {
...
-    flattened.ForEachRemaining(collector, collectorTotalProof);
+    flattened.ForEach(collector, collectorTotalProof);
 
     expect collector.values == [0, 1, 1, 1, 1, 2, 2, 2, 2, 3], collector.values;
   }
+
+  // "Batched Byte"
+  type BB = Batched<uint8, string>
+
+  // TODO - not verifying yet
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy:312]: Let me know when it verifies so that I can review it !

File: Source/DafnyStandardLibraries/examples/TargetSpecific/ActionsExternsExamples-cs-java.dfy [hunk 5]
```diff
@@ -0,0 +1,66 @@
...
+      assert x !in oldProduced;
+
+      copy := copy + {x};
+    }
+
+    assert copy == s;
+    expect copy == s;
+  }
+
+  method {:test} SetToSeq() {
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/examples/TargetSpecific/ActionsExternsExamples-cs-java.dfy]:
```suggestion
  @Test
  method SetToSeq() {
```
and similar elsewhere :-)

File: Source/DafnyStandardLibraries/examples/nondeterministic/dfyconfig.toml [hunk 6]
```diff
@@ -3,5 +3,5 @@ standard-libraries = true
 reads-clauses-on-methods = false
 enforce-determinism = false
 resource-limit = 1000000
-warn-redundant-assumptions = true
+warn-redundant-assumptions = false
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/examples/nondeterministic/dfyconfig.toml:7]: Any comment on that?

File: Source/DafnyStandardLibraries/src/Std/Actions/BulkActions.dfy [hunk 7]
```diff
@@ -0,0 +1,613 @@
...
+
+  import opened Actions
+  import opened Consumers
+  import opened Producers
+  import opened Wrappers
+  import opened BoundedInts
+  import opened Termination
+
+  // A wrapper type useful as the output type of producers that may encounter errors.
+  // Equvilant to Option<Result<T, E>> but generally more readable.
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/src/Std/Actions/BulkActions.dfy]:
```suggestion
  // Equivalent to Option<Result<T, E>> but generally more readable.
```

File: Source/DafnyStandardLibraries/src/Std/Actions/BulkActions.dfy [hunk 8]
```diff
@@ -0,0 +1,613 @@
...
+      modifies Repr, input.Repr, output.Repr, outputTotalProof.Repr
+      ensures ValidChange()
+      ensures input.ValidChange()
+      ensures output.ValidChange()
+      ensures input.Done()
+      ensures |input.NewProduced()| == |output.NewInputs()|
+      ensures history == old(history) + Seq.Zip(input.NewProduced(), output.NewInputs())
+  }
+
+// TODO: Not actually implementable without a bunch of machinery in BulkAction to prove transitivity of ValidChange
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/src/Std/Actions/BulkActions.dfy]: What shall we do with this TODO?

File: Source/DafnyStandardLibraries/src/Std/Actions/BulkActions.dfy [hunk 9]
```diff
@@ -0,0 +1,613 @@
...
+    {}
+
+    ghost predicate ValidInput(history: seq<(Batched<T, E>, bool)>, next: Batched<T, E>)
+      requires ValidHistory(history)
+      decreases Repr
+    {
+      true
+    }
+
+    ghost function DecreasesMetric(): TerminationMetric
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/src/Std/Actions/BulkActions.dfy:414]: I see TerminationMetric here while previously one decrease metric started to use ORDINAL instead of TerminationMetric. Can you please clarify on whether this is intentional to have to different decrease mesure types? If not, perhaps having only one type could make it more maintainable.

File: Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy [hunk 10]
```diff
@@ -30,41 +42,166 @@ module Std.Consumers {
...
+    }
+
+    @ResourceLimit("0")
+    @IsolateAssertions
+    lemma ValidChangeTransitive(newer: ConsumerState<T>, now: ConsumerState<T>)
+      requires ValidChange(newer) && newer.ValidChange(now)
+      ensures ValidChange(now)
+      ensures NewConsumed(now) == NewConsumed(newer) + newer.NewConsumed(now)
+    {
+      // TODO: clean up using NewConsumed etc
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy]: Time for a clean-up?

File: Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy [hunk 11]
```diff
@@ -30,41 +42,166 @@ module Std.Consumers {
...
+    }
+
+    ghost predicate ValidHistory(history: seq<(T, bool)>)
+      decreases Repr
     {
-      Remaining()
+      Seq.Partitioned(history, WasConsumed)
+    }
+
+    // TODO: Name is wrong, should be more like RemainingCapacity()?
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy]: Let's resolve this TODO. Is `Some(0)` the same as `None` by the way?

File: Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy [hunk 12]
```diff
@@ -376,19 +778,56 @@ module Std.Consumers {
...
+
+    twostate lemma ValidImpliesValidChange()
+      requires old(Valid())
+      requires unchanged(old(Repr))
+      ensures ValidChange()
+    {}
+
     ghost function Action(): Action<T, ()> {
-      this
+      action
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy:830]: This seems like a simple mistake to make to revert this. Is this tested?

File: Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy [hunk 13]
```diff
@@ -111,8 +130,79 @@ module Std.Producers {
...
+    }
+
+    @ResourceLimit("0")
+    @IsolateAssertions
+    lemma ValidChangeTransitive(newer: ProducerState<T>, now: ProducerState<T>)
+      requires ValidChange(newer) && newer.ValidChange(now)
+      ensures ValidChange(now)
+      ensures NewProduced(now) == NewProduced(newer) + newer.NewProduced(now)
+    {
+      // TODO: clean up using NewProduced etc
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy]: Anything to clean up? Or we can remove this TODO?

File: Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy [hunk 14]
```diff
@@ -782,34 +1461,68 @@ module Std.Producers {
...
         assert (Seq.All(source.Outputs(), IsSome) ==> Seq.All(Outputs(), IsSome));
 
-        old(RemainingMetric()).SuccNonIncreasesToSucc(RemainingMetric());
+        old(DecreasesMetric()).SuccNonIncreasesToSucc(DecreasesMetric());
       }
 
       assert Valid();
     }
+
+    method ForEach(consumer: IConsumer<T>, ghost totalActionProof: TotalActionProof<T, ()>)
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy:1497]: Is IConsumer a trait? It seemed like a C# convention, just wanted to double check on the naming - even if it's unlikely we can change it.

File: Source/DafnyStandardLibraries/src/Std/Collections/Seq.dfy [hunk 15]
```diff
@@ -831,7 +831,7 @@ module Std.Collections.Seq {
   opaque function Filter<T>(f: (T ~> bool), xs: seq<T>): (result: seq<T>)
     requires forall i :: 0 <= i < |xs| ==> f.requires(xs[i])
     ensures |result| <= |xs|
-    ensures forall i: nat :: i < |result| && f.requires(result[i]) ==> f(result[i])
+    ensures forall i: nat | i < |result| :: f.requires(result[i]) && f(result[i])
```
Comment (MikaelMayer) [inline Source/DafnyStandardLibraries/src/Std/Collections/Seq.dfy:834]: Excellent job fixing this contract. `f` should indeed be defined on all the elements of the result.

**Review by MikaelMayer — COMMENTED** [review]
I've reviewed everything, here is some general feedback and questions. Great addition !

File: Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy (hunk 14 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy:1497]: It is, and the naming convention is following the different between `set<T>` and `iset<T>`: an `IConsumer` consumes values forever, a `Consumer` eventually must run out of capacity. https://github.com/dafny-lang/dafny/blob/master/Source/DafnyStandardLibraries/src/Std/Actions/Actions.md#specializations

(For the record I do think breaking changes are still possible since this library was not actually released yet.)

File: Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy (hunk 1 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy:19]: Mainly did this because I ended up needing the same thing for consumers, and I thought it was better to use the same, more generic term on both.

File: Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy (hunk 2 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy:209]: It's not obvious, but the actual function of the class changed: before it was ultimately a `Producer<Producer<nat>>` that wrapped an original `Producer<nat>`, but now it is ultimately an `Action<nat, Producer<nat>>` that is mapped over an original `Producer<nat>`. Therefore it makes sense that it's now only an outputter rather than a producer :)

File: Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy (hunk 3 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy:280]: Again since it's now just an Action rather than a Producer, it just produces the Producer of two nats from an input nat.

File: Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy (hunk 4 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/examples/Actions/ActionsExamples.dfy:312]: I've actually removed it now, because it's already verifying and tested in this smithy-dafny PR that I'll have you review once this one is in: https://github.com/smithy-lang/smithy-dafny/pull/806 :)

File: Source/DafnyStandardLibraries/examples/nondeterministic/dfyconfig.toml (hunk 6 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/examples/nondeterministic/dfyconfig.toml:7]: Added. Same as the other places we have it turned off - false positives without a workaround.

File: Source/DafnyStandardLibraries/src/Std/Actions/BulkActions.dfy (hunk 8 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/BulkActions.dfy]: I've removed this entirely. Having the attempt in the git history is enough for me. The definition isn't badly needed unlike DefaultForEach and DefaultFill, as there aren't a lot of BulkActions implemented, and they will want to provide their own optimized implementation anyway.

File: Source/DafnyStandardLibraries/src/Std/Actions/BulkActions.dfy (hunk 9 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/BulkActions.dfy:414]: Yes it's intentional. The most general option is `ORDINAL` and what `GenericAction.Decreases(i)` uses, but `TerminationMetric` is one possible utility that makes it much easier to prove that your `Decreases()` actually decreases. The former is what a user of your code will use since it's simplest and most convenient, since you can say `decreases Decreasing(i)`, but `TerminationMetric` will often be used as implementation detail.

File: Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy (hunk 12 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy:830]: It is now - `totalActionProof()` is used in `CollectToSeq` and `ActionsExternsExamples.SetToSeq`.

We could really use a ghost code coverage metric as well as the executed code coverage metric. :)

File: Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy (hunk 13 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy]: I wanted to see if the proof could be simplified after adding the `NewProduced()` function, but I gave it a try and it didn't seem to help any, so I removed the TODO. :)

File: Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy (hunk 10 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy]: Removed (same as the NewProduced TODO below)

File: Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy (hunk 11 above)
Comment (robin-aws) [reply Source/DafnyStandardLibraries/src/Std/Actions/Consumers.dfy]: No, `Some(0)` means the capacity is known and it's 0, `None` means the capacity is unknown.

Added a comment to this and `Producer.Remaining()` to clarify that. At this point no longer think `Capacity()` is flat out wrong though, and I think the symmetry is slightly better as-is. I removed the TODO but if you feel differently I'm definitely still willing to rename it.

File: Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy (hunk 14 above)
Comment (MikaelMayer) [reply Source/DafnyStandardLibraries/src/Std/Actions/Producers.dfy:1497]: Ohhh so the I stands for infinite, not interface. Got it. I like that.
